US08003624B2
To a stirred solution of 6-nitroindoline (8.0 g, 48.8 mmol) in DCM (50 mL) was added pyridine (9.9 mL, 122 mmol), (Boc)2O (10.6 g, 48.6 mmol) and catalytic DMAP. The mixture was stirred overnight. Reaction was washed with brine, and the organic layer was dried (Na2SO4), filtered and concentrated. Chromatography (20% EtOAc/hexanes) provided 1-Boc-6-nitroindoline (10 g, 78%).

reactant | 6-nitroindoline | 48.8 mmol, 8.0 g | [N+](=O)([O-])C1=CC=C2CCNC2=C1 | C8H8N2O2
reactant | pyridine | 122 mmol, 9.9 mL | N1=CC=CC=C1 | C5H5N
reactant | (Boc)2O | 48.6 mmol, 10.6 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-Boc-6-nitroindoline | 10 g, 78% | C(=O)(OC(C)(C)C)N1CCC2=CC=C(C=C12)[N+](=O)[O-] | C13H16N2O4
